US09399636B2
To a solution of compound 4-(piperidin-4-yl)pyridin-2-amine (8.5 g, 0.05 mols, 1 equiv.) in tetrahydrofuran (100 mL) was added triethylamine (5 g, 0.05 mols, 1 equiv.)) and di-tert-butyl dicarbonate (5.3 g, 0.025 mols, 0.5 equiv.)). The mixture was stirred at r.t. for 1 h The reaction was monitored to completion by TLC (dichloromethane/methanol; 10/1), concentrated and purified by flash chromatography using silica gel (ethyl acetate/dichloromethane; 10/1) to obtained tert-butyl 4-(2-aminopyridin-4-yl)piperidine-1-carboxylate (5.2 g, 38% yield).

reactant | 4-(piperidin-4-yl)pyridin-2-amine | 0.05 mols, 8.5 g, 1 equiv. | N1CCC(CC1)C1=CC(=NC=C1)N | C10H15N3
reactant | triethylamine | 0.05 mols, 5 g, 1 equiv. | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.025 mols, 5.3 g, 0.5 equiv. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dichloromethane methanol | ClCCl.CO
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-(2-aminopyridin-4-yl)piperidine-1-carboxylate | 5.2 g, 38% yield | NC1=NC=CC(=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C15H23N3O2
